US08735390B2
5-Bromo-2-(methyloxy)-3-pyridinamine
Iron powder (1.17 kg) was added to a suspension of 5-bromo-2-(methyloxy)-3-nitropyridine (1.36 kg) in IMS (6.1 L), stirred under nitrogen at 20-25° C. Water (0.8 L) was then added and the mixture cooled to less than 10° C. Aqueous hydrochloric acid (0.8 L concentrated hydrochloric acid and 0.8 L water) was then added to the reaction mixture, maintaining the temperature below 10-15° C. The suspension was warmed to 20-25° C. and then stirred at this temperature for 23 hours. The suspension was filtered, the filter cake washed with IMS (2×2.7 L) and the combined filtrates concentrated under vacuum. Water (4.1 L) was added slowly to the concentrated solution and the resulting suspension was held at 20-25° C. for 1.75 hours. The resultant suspension was filtered, washed with water (2×6.8 L) and the solid dried under vacuum to give the title compound as an off-white solid (1.13 kg).

reactant | 5-bromo-2-(methyloxy)-3-nitropyridine | 1.36 kg | BrC=1C=C(C(=NC1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | hydrochloric acid | 0.8 L | Cl | ClH
catalyst | Iron | 1.17 kg | [Fe] | Fe
solvent | Water | 0.8 L | O | H2O
product | 5-Bromo-2-(methyloxy)-3-pyridinamine | 1.13 kg | BrC=1C=C(C(=NC1)OC)N | C6H7BrN2O
